US06756378B2
To a stirred solution of methyl 3-chloro-4-[N′-(2-chlorophenyl)ureido]phenylacetate (1.35 g, 3.82 mmol) in THF (30 ml) was added 0.25 N NaOH (30 ml). After stirring at room temperature for 14 h, the solvent was concentrated in vacuo. The residue was triturated by the addition of 1 N HCl and dried at 60° C. for 2 days under a reduced pressure to give 3-chloro-4-[N′-(2-chlorophenyl)ureido]phenylacetic acid (1.12 g, 86%) as colorless powder. 1H-NMR (DMSO-d6) δ3.52 (s, 2H), 7.05 (m, 1H), 7.17 (d, J=8.5 Hz, 1H), 7.30 (d, J=7.6 Hz, 1H), 7.37 (s, 1H), 7.46 (dd, J=8.0, 1.5 Hz, 1H), 7.95 (dd, J=8.3, 1.2 Hz, 1H), 8.07 (d, J=8.3 Hz, 1H), 9.00 (d, J=8.0 Hz, 2H); MS (FAB) m/z 339 (M++1), 341 (M++3), 343 (M++5).

reactant | methyl 3-chloro-4-[N′-(2-chlorophenyl)ureido]phenylacetate | 3.82 mmol, 1.35 g | ClC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)Cl)CC(=O)OC | C16H14Cl2N2O3
reactant | NaOH | 0.25 N, 30 ml | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-chloro-4-[N′-(2-chlorophenyl)ureido]phenylacetic acid | 1.12 g, 86% | ClC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)Cl)CC(=O)O | C15H12Cl2N2O3
